US06797823B1
N-(2Methoxy-4-{[6-methoxy-7-(3-morpholino-propoxy)-4-quinolyl]oxy}phenyl)-N′-propylurea
A starting compound (N-{4-[(7-hydroxy-6-methoxy-4-quinolyl)oxy]-2-methoxyphenyl}-N′-propylurea, 80 mg), potassium carbonate (138 mg), and 1,3-dibromopropane(0.10 ml) were dissolved in N,N-dimethylformamide (1 ml), and the solution was stirred at room temperature for 18 hr. Water was added to the reaction mixture, and the mixture was extracted with chloroform-propanol (3/1). The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under the reduced pressure. The residue was washed with ether to give an intermediate. The intermediate, potassium carbonate (138 mg), and morpholine (0.040 ml) were dissolved in N,N-dimethylformamide (1 ml), and the solution was stirred at room temperature for 18 hr. Water was added to the reaction mixture, and the mixture was extracted with chloroform-propanol (3/1). The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under the reduced pressure. The residue was purified by chromatography on silica gel by development with chloroform/methanol to give 74 mg (yield 71%) of the title compound.

reactant | N-{4-[(7-hydroxy-6-methoxy-4-quinolyl)oxy]-2-methoxyphenyl}-N′-propylurea | OC1=C(C=C2C(=CC=NC2=C1)OC1=CC(=C(C=C1)NC(=O)NCCC)OC)OC | C21H23N3O5
reactant | potassium carbonate | 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-dibromopropane | 0.10 ml | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine | 0.040 ml | N1CCOCC1 | C4H9NO
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | N-(2Methoxy-4-{[6-methoxy-7-(3-morpholino-propoxy)-4-quinolyl]oxy}phenyl)-N′-propylurea | 74 mg, yield 71% | COC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1)NC(=O)NCCC | C28H36N4O6
